US09120884B2
A 2000 mL round flask was charged with 9H-fluorene (50 g, 300.1 mmol) and potassium t-butoxide (77.0 g, 721.9 mmol), and then 700 mL of DMSO was slowly injected thereto. Under nitrogen atmosphere, iodomethane (113.5 g, 800 mmol) was slowly dropped through a dropping funnel while the reactor temperature was maintained at 10° C. or lower. The mixture was stirred at room temperature for 24 hours, and the reaction was terminated by addition of 500 mL of distilled water. The organic layer collected by extraction with n-hexane was dried over magnesium sulfate, followed by removal of volatile materials, and then purified with n-hexane by using silica gel column chromatography tube, followed by drying, to thereby obtain 47.5 g of 9,9-dimethyl-9H-fluorene (yield: 81.50%) as white solid.

reactant | 9H-fluorene | 300.1 mmol, 50 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | potassium t-butoxide | 721.9 mmol, 77.0 g | CC(C)([O-])C.[K+]
reactant | iodomethane | 800 mmol, 113.5 g | IC | CH3I
solvent | DMSO | 700 mL | CS(=O)C | C2H6OS
product | 9,9-dimethyl-9H-fluorene | 47.5 g, yield: 81.50% | CC1(C2=CC=CC=C2C=2C=CC=CC12)C | C15H14
